US05393730
A mixture of 2-(3-trifluoromethylbenzoyl)nicotinic acid (1.8 g) and thionyl chloride (10 ml) was heated at reflux for 3.5 hours. Excess reagent was removed by evaporation to yield 2-(3-trifluoromethylbenzoyl)nicotinoyl chloride as a red-brown gum (2 g) which was used in the next step without further purification.

reactant | 2-(3-trifluoromethylbenzoyl)nicotinic acid | 1.8 g | FC(C=1C=C(C(=O)C2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C14H8F3NO3
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(3-trifluoromethylbenzoyl)nicotinoyl chloride | 2 g | FC(C=1C=C(C(=O)C2=C(C(=O)Cl)C=CC=N2)C=CC1)(F)F | C14H7ClF3NO2
